US05272128
B: 2,6-Dimethyl-4-chlorophenylsulfonyl chloride
2,4-dichloro-6-methoxybenzenesulfonyl chloride from 2,4-dichloroanisole and 2,5-dichloro-3,6-dimethylbenzenesulfonyl chloride from 2,5-dichloro-p-xylene.

reactant | 2,4-dichloro-6-methoxybenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)OC)S(=O)(=O)Cl | C7H5Cl3O3S
reactant | 2,4-dichloroanisole | ClC1=C(C=CC(=C1)Cl)OC | C7H6Cl2O
reactant | 2,5-dichloro-3,6-dimethylbenzenesulfonyl chloride | ClC1=C(C(=C(C=C1C)Cl)C)S(=O)(=O)Cl | C8H7Cl3O2S
reactant | 2,5-dichloro-p-xylene | ClC1=C(C=C(C(=C1)C)Cl)C | C8H8Cl2
product | 2,6-Dimethyl-4-chlorophenylsulfonyl chloride | CC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C8H8Cl2O2S
